US07678801B2
1,1-dimethylethyl {2-[(8-(2,6-difluorophenyl)-4-{2-methyl-5-[(propylamino)carbonyl]phenyl}-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-2-yl)amino]ethyl}methylcarbamate
3-[8-(2,6-difluorophenyl)-2-(methylsulfonyl)-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-4-yl]-4-methyl-N-propylbenzamide (1.59 g, 3.1 mmol), was dissolved in CH2Cl2 (140 mL) and stirred under argon at room temperature. 1,1-dimethylethyl (2-aminoethyl)methylcarbamate (0.806 g, 4.65 mmol), and TEA (0.87 mL, 6.2 mmol) were combined in CH2Cl2 (10 mL) and added to the solution of the sulfone. The resulting reaction mixture was stirred under argon overnight. The solvents were pumped off in vacuo. The residue was flash chromatographed on silica gel (150 g) eluted with 0-40% EtOAc/CH2Cl2 to give the title compound as a white amorphous solid. mp 115-118° C. LC-MS m/z 607 (M+H)+, 2.27 min (ret time).

reactant | 3-[8-(2,6-difluorophenyl)-2-(methylsulfonyl)-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-4-yl]-4-methyl-N-propylbenzamide | 3.1 mmol, 1.59 g | FC1=C(C(=CC=C1)F)N1C(C=CC2=C1N=C(N=C2C=2C=C(C(=O)NCCC)C=CC2C)S(=O)(=O)C)=O | C25H22F2N4O4S
reactant | 1,1-dimethylethyl (2-aminoethyl)methylcarbamate | 4.65 mmol, 0.806 g | NCCN(C(OC(C)(C)C)=O)C | C8H18N2O2
solvent | CH2Cl2 | 140 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 1,1-dimethylethyl {2-[(8-(2,6-difluorophenyl)-4-{2-methyl-5-[(propylamino)carbonyl]phenyl}-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-2-yl)amino]ethyl}methylcarbamate | FC1=C(C(=CC=C1)F)N1C(C=CC2=C1N=C(N=C2C2=C(C=CC(=C2)C(=O)NCCC)C)NCCN(C(OC(C)(C)C)=O)C)=O | C32H36F2N6O4
